US08026257B2
(±)-1-(5-(Trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol.
To a solution of 5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde (0.5 g, 1.45 mmol) in tetrahydrofuran (10 mL) at −78° C. was added methyl magnesiumbromide (3 M in diethyl ether, 0.97 mL, 2.90 mmol). The reaction was allowed to gradually warm in the ice bath (ca. 1 h) to 0° C. The reaction which had been a suspension became a solution. The reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 444 mg (85%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 8.23 (s, 1H), 7.93 (s, 1H), 7.39 (s, 1H), 5.73 (s, 2H), 5.38 (q, J=6.4 Hz, 1H), 3.65 (m, 2H), 3.52 (bs, 1H), 1.71 (d, J=6.7 Hz, 3H), 0.94 (m, 2H), −0.03 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 147.3, 136.6, 128.0, 124.8, 124.7 (q, J=273 Hz), 124.7 (q, J=32 Hz), 121.3, 118.4 (q, J=4.8 Hz), 117.4 (q, J=2.9 Hz), 82.1, 68.2, 68.0, 23.4, 17.9, −1.4.

reactant | 5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | 1.45 mmol, 0.5 g | FC(C1=CC2=CN(N=C2C(=C1)C=O)COCC[Si](C)(C)C)(F)F | C15H19F3N2O2Si
reactant | methyl magnesiumbromide | 2.90 mmol, 3 M, 0.97 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-(Trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | FC(C1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C)(F)F | C16H23F3N2O2Si
